US05856273
O-Benzylhydroxylamine hydrochloride (1.71 g) was suspended in ethyl acetate, and the mixture was washed thoroughly with saturated aqueous sodium bicarbonate solution. the organic layer was dried (MgSO4), and evaporated under reduced pressure to leave O-benzylhydroxylamine as an oil. This was added dropwise to 3-trifluoromethylphenyl isocyanate (2.00 g), and the mixture was left to stand for 1 hour. The mixture was then dissolved in ethyl acetate and washed with 2M hydrochloric acid. The organic layer was separated, dried (MgSO4), and evaporated under reduced pressure to afford the product, yield 2.91 g.

reactant | O-Benzylhydroxylamine hydrochloride | 1.71 g | Cl.C(C1=CC=CC=C1)ON
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | O-benzylhydroxylamine | C(C1=CC=CC=C1)ON | C7H9NO
